US08383821B2
A mixture of tert-butyl 4-(2-bromo-4-fluorophenyl)-4-(((4′-cyano-5-(trifluoromethyl)biphenyl-3-yl)methoxy)methyl)piperidine-1-carboxylate (100 mg, 0.15 mmol), phenyl boronic acid (19 mg, 0.15 mmol), potassium carbonate (43 mg, 0.31 mmol) and tetrakis(triphenylphosphine)palladium(0) (18 mg, 0.15 mmol) were placed in a sealable vessel and degassed with nitrogen for 5 min. The vessel was then sealed and heated at 120° C. for 3 h. The reaction was poured into brine (20 mL) and extracted with ethyl acetate (4×5 mL). The combined organic layers were dried (MgSO4) and evaporated to dryness. The resulting residue was purified by chromatography on SiO2 with a ethyl acetate/hexanes gradient from 12% to 100%. The product tert-butyl 4-(((4′-cyano-5-(trifluoromethyl)biphenyl-3-yl)methoxy)methyl)-4-(5-fluorobiphenyl-2-yl)piperidine-1-carboxylate (39 mg, 39%) was isolated as a clear oil. 1H-NMR (CDCl3, 400 MHz) δ 7.68-7.76 (m, 3H), 7.55 (d, J=8.4 Hz, 2H), 7.44 (m, 3H), 7.18-7.28 (m, 3H), 7.03 (m, 1H), 6.94 m, 2H), 6.67 (m, 1H), 4.52 (s, 2H), 3.52 (m, 2H), 3.47 (s, 2H), 2.90 (m, 2H), 1.91 (m, 2H), 1.45 (m, 2H), 1.38 (s, 9H). Mass spec.: 645.2 (M+H).

reactant | tert-butyl 4-(2-bromo-4-fluorophenyl)-4-(((4′-cyano-5-(trifluoromethyl)biphenyl-3-yl)methoxy)methyl)piperidine-1-carboxylate | 0.15 mmol, 100 mg | BrC1=C(C=CC(=C1)F)C1(CCN(CC1)C(=O)OC(C)(C)C)COCC=1C=C(C=C(C1)C(F)(F)F)C1=CC=C(C=C1)C#N | C32H31BrF4N2O3
reactant | phenyl boronic acid | 0.15 mmol, 19 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 0.31 mmol, 43 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.15 mmol, 18 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 4-(((4′-cyano-5-(trifluoromethyl)biphenyl-3-yl)methoxy)methyl)-4-(5-fluorobiphenyl-2-yl)piperidine-1-carboxylate | 39 mg, 39% | C(#N)C1=CC=C(C=C1)C1=CC(=CC(=C1)C(F)(F)F)COCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=C(C=C(C=C1)F)C1=CC=CC=C1 | C38H36F4N2O3
